// gain_extraction gold smoke testbench
// 50 MHz clock, ACTUAL_GAIN=8.64, DITHER_AMP=0.014063. Run 20us.
// Check: std(vamp_diff) / std(vin_diff) > 4.0.
simulator lang=spectre
global 0

ahdl_include "vin_src.va"
ahdl_include "lfsr.va"
ahdl_include "dither_adder.va"
ahdl_include "gain_amp_fixed.va"

parameters vdd=0.9 ACTUAL_GAIN=8.64 DITHER_AMP=0.014063 fs=50e6 fin=300e3 VIN_NOISE=0.01

Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// 50 MHz clock
Vclk (clk 0) vsource type=pulse val0=0 val1=vdd period=20n delay=5n rise=1n fall=1n width=9n

// Reset deasserts at 40ns
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  39.5n 0  40n vdd  20u vdd]
Ven    (en    0) vsource dc=vdd

// Clocked noisy sine input
IVIN  (clk rst_n vinp vinn) vin_src vdd=vdd vth=0.45 ampl=0.02 freq=fin sigma=VIN_NOISE SEED=0

// LFSR (drives dither)
ILFSR (dpn vdd vss clk en rst_n) lfsr seed=42

// Dither adder
IDITH (vinp vinn dpn vdin_p vdin_n) dither_adder vdd=vdd vth=0.45 DITHER_AMP=DITHER_AMP

// Fixed-gain amplifier
IAMP  (vdin_p vdin_n vamp_p vamp_n) gain_amp_fixed vdd=vdd ACTUAL_GAIN=ACTUAL_GAIN

tran tran stop=20u maxstep=8n
save vinp vinn vamp_p vamp_n
